US06261738B1
7.1: 2,2,2-Trifluoro-1-(4-methylphenyl)-ethanone
50.0 g (0.543 mol) of toluene and 66.3 g (0.543 mol) of 4-dimethylaminopyridine are mixed in 700 ml of CH2Cl2 and cooled in an ice bath. To the solution are added dropwise 114.0 g (0.543 mol) of trifluoroacetic anhydride, followed by 167 g (1.25 mol) of AlCl3 by portions. The reaction mixture is stirred at room temperature overnight, poured into ice wter, and extracted with CH2Cl2. The organic phase is washed with water, dried over MgSO4, and concentrated. The residue is distilled at 90° C./15 mm Hg, yielding 49.5 g of the product as a colorless liquid.

reactant | toluene | 0.543 mol, 50.0 g | C1(=CC=CC=C1)C | C7H8
reactant | trifluoroacetic anhydride | 0.543 mol, 114.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | AlCl3 | 1.25 mol, 167 g | [Al+3].[Cl-].[Cl-].[Cl-]
catalyst | 4-dimethylaminopyridine | 0.543 mol, 66.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(4-methylphenyl)-ethanone | 49.5 g | FC(C(=O)C1=CC=C(C=C1)C)(F)F | C9H7F3O
